US08877742B2
N-(3-(5-fluoro-1-methylindolin-6-yl)-1-(1-methylazetidin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-yl)benzenesulfonamide
To a solution of N-(1-(azetidin-3-yl)-3-(5-fluoro-1-methylindolin-6-yl)-1H-pyrrolo[2,3-b]pyridin-4-yl)benzenesulfonamide D34 (394 mg, 0.825 mmol) in DCM (5 mL) was added formaldehyde (0.307 mL, 4.13 mmol) and sodium cyanoborohydride (104 mg, 1.650 mmol). The final mixture was stirred at RT for 1 h. The mixture was passed through a SCX cartridge eluting with MeOH and followed by 2M ammonia in MeOH. The desired fractions were concentrated and further purified on normal phase silica eluting with 2M ammonia in MeOH and DCM (0-10%) to give the title compound (153 mg). LCMS (A): m/z (M+H)+ 492, C26H26FN5O2S requires 491 (acidic).

reactant | N-(1-(azetidin-3-yl)-3-(5-fluoro-1-methylindolin-6-yl)-1H-pyrrolo[2,3-b]pyridin-4-yl)benzenesulfonamide | N1CC(C1)N1C=C(C=2C1=NC=CC2NS(=O)(=O)C2=CC=CC=C2)C2=C(C=C1CCN(C1=C2)C)F | C25H24FN5O2S
reactant | formaldehyde | 4.13 mmol, 0.307 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 1.650 mmol, 104 mg | C(#N)[BH3-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(5-fluoro-1-methylindolin-6-yl)-1-(1-methylazetidin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-yl)benzenesulfonamide | 153 mg | FC=1C=C2CCN(C2=CC1C1=CN(C2=NC=CC(=C21)NS(=O)(=O)C2=CC=CC=C2)C2CN(C2)C)C | C26H26FN5O2S
